US07932259B2
A suspension of 7-(4-bromo-2,6-dimethylphenyl)-4-chloro-2,5-dimethyl-5,7-dihydropyrrolo[2,3-d]pyrimidin-6-one (7.5 g), ethyl isonipecotate (4.7 g), N,N-diisopropylethylamine (3.8 g) in ethanol (35 mL) was heated at reflux for 12 hours. The reaction mixture was stirred at room temperature to afford a solid. The solid was collected by filtration and washed with cold ethanol to give 1-[7-(4-bromo-2,6-dimethylphenyl)-2,5-dimethyl-6-oxo-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl]piperidine-4-carboxylic acid ethyl ester (7.7 g).

reactant | 7-(4-bromo-2,6-dimethylphenyl)-4-chloro-2,5-dimethyl-5,7-dihydropyrrolo[2,3-d]pyrimidin-6-one | 7.5 g | BrC1=CC(=C(C(=C1)C)N1C(C(C2=C1N=C(N=C2Cl)C)C)=O)C | C16H15BrClN3O
reactant | ethyl isonipecotate | 4.7 g | N1CCC(C(=O)OCC)CC1 | C8H15NO2
reactant | N,N-diisopropylethylamine | 3.8 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | ethanol | 35 mL | C(C)O | C2H6O
product | 1-[7-(4-bromo-2,6-dimethylphenyl)-2,5-dimethyl-6-oxo-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl]piperidine-4-carboxylic acid ethyl ester | 7.7 g | C(C)OC(=O)C1CCN(CC1)C=1C2=C(N=C(N1)C)N(C(C2C)=O)C2=C(C=C(C=C2C)Br)C | C24H29BrN4O3
